US05117028
4-ethoxyphenyl-3-(4-fluoro-3-phenoxyphenyl)propyl(dimethyl)silane (Comparative example)
A few drops of a 30% solution of hexachloroplatinic acid in isopropanol are added twice at 22° C. to a mixture of 2.98 mol of 4-fluoro-3-phenoxyphenylallylbenzene (98.9% pure, 687 g) and 3.24 mol of 4-ethoxyphenyl(dimethyl)silane (595 g, 97.9% pure). After an induction phase of 11/2 hours, spontaneous heating to 130° C. takes place. After stirring is continued for a short period, 259 g of forerun are distilled off in a high vacuum of 0.4-0.15 mbar, followed by 1003 g of product (98.7% pure by GC). This corresponds to a yield of 81.4% of theory.

reactant | 4-fluoro-3-phenoxyphenylallylbenzene | 2.98 mol, 687 g | FC1=C(C=C(C=C1)CC=CC1=CC=CC=C1)OC1=CC=CC=C1 | C21H17FO
reactant | 4-ethoxyphenyl(dimethyl)silane | 3.24 mol, 595 g | C(C)OC1=CC=C(C=C1)[SiH](C)C | C10H16OSi
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | hexachloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 4-ethoxyphenyl-3-(4-fluoro-3-phenoxyphenyl)propyl(dimethyl)silane | yield of 81.4% | C(C)OC1=CC=C(C=C1)[Si](C)(C)CCCC1=CC(=C(C=C1)F)OC1=CC=CC=C1 | C25H29FO2Si
